Dual-modulus prescaler divide-by-nine test
.include "build/sky130_tt.inc"
.include "netlists/primitives.spice"
.include "netlists/qvco.spice"
.include "netlists/synth.spice"
VDD vdd 0 1
VCLK clk 0 pulse(0 1 20n 0.2n 0.2n 6.05n 12.5n)
VM mode 0 1
VR reset 0 pulse(1 0 0 1n 1n 10u 20u)
XPRE clk mode reset out q0 q1 q2 q3 vdd 0 prescaler_8_9
.control
set wr_singlescale
tran 0.2n 3u
meas tran tp5 when v(out)=0.5 rise=5
meas tran tp15 when v(out)=0.5 rise=15
let prescaler_out_hz=10/(tp15-tp5)
print prescaler_out_hz
wrdata results/raw/prescaler9_tran.dat v(clk) v(out) v(q0) v(q1) v(q2) v(q3)
quit
.endc
.end
