QVCO low-control tuning endpoint
.include "build/sky130_tt.inc"
.include "netlists/qvco.spice"
VDD vdd 0 1
VCTRL vctrl 0 0.2
XVCO ip in qp qn vctrl vdd 0 quadrature_vco
.ic v(ip)=0.51 v(in)=0.49 v(qp)=0.5 v(qn)=0.5
.control
tran 25p 1.5u 0 25p uic
meas tran t50 when v(ip)=0.47 rise=50
meas tran t150 when v(ip)=0.47 rise=150
let tune_low_hz=100/(t150-t50)
print tune_low_hz
quit
.endc
.end
