Complex-filter image-sideband AC test
.include "build/sky130_tt.inc"
.include "netlists/primitives.spice"
.include "netlists/bias.spice"
.include "netlists/cbpf.spice"
VDD vdd 0 1
VIP ip 0 dc 0.5 ac 0.5 0
VIN in 0 dc 0.5 ac 0.5 180
VQP qp 0 dc 0.5 ac 0.5 90
VQN qn 0 dc 0.5 ac 0.5 -90
XBIAS vdd 0 vbn vbp constant_gm_bias
XFILT ip in qp qn iop ion qop qon vdd 0 vbn vbp complex_bpf8
.control
set wr_singlescale
ac dec 160 10k 20meg
let image_db=db(v(iop)-v(ion))
meas ac cbpf_image_750_db find image_db at=750k
wrdata results/raw/cbpf_image_ac.dat image_db
quit
.endc
.end
