Five-bit programmable counter P=9 test
.include "build/sky130_tt.inc"
.include "netlists/primitives.spice"
.include "netlists/qvco.spice"
.include "netlists/synth.spice"
VDD vdd 0 1
VCLK clk 0 pulse(0 1 20n 1n 1n 48n 100n)
VR reset 0 pulse(1 0 0 1n 1n 50u 100u)
XP clk reset vdd 0 0 vdd 0 terminal q0 q1 q2 q3 q4 vdd 0 programmable_counter5
.control
set wr_singlescale
tran 1n 20u
meas tran tc2 when v(terminal)=0.5 rise=2
meas tran tc12 when v(terminal)=0.5 rise=12
let counter_out_hz=10/(tc12-tc2)
print counter_out_hz
wrdata results/raw/counter5_tran.dat v(clk) v(terminal) v(q0) v(q1) v(q2) v(q3) v(q4)
quit
.endc
.end
